US20010016207A1
C. N-[1-(Cyanomethyl-carbamoyl)-cyclohexyl]-4-[4-(1-propyl)-piperazin-1-yl]-benzamide
In an alternative procedure the acetic acid internal salt of 4-[4-(1-propyl)-piperazin-1-yl]-benzoic acid is treated in acetonitrile with HOBt, NMM and diisopropylcarbodiimide (DICI), and after stirring for 1 hr at 40° C. a solution of 1-amino-cyclohexanecarboxylic acid cyanomethyl-amide in acetonitrile is added. On completion of the reaction, the product is precipitated by addition of water to the reaction mixture, filtered and following digestion with ethanol is dried to the end product.

reactant | 4-[4-(1-propyl)-piperazin-1-yl]-benzoic acid | C(CC)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C14H20N2O2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | CN1CCOCC1 | C5H11NO
reactant | diisopropylcarbodiimide | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 1-amino-cyclohexanecarboxylic acid cyanomethyl-amide | C(#N)CNC(=O)C1(CCCCC1)N | C9H15N3O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[1-(Cyanomethyl-carbamoyl)-cyclohexyl]-4-[4-(1-propyl)-piperazin-1-yl]-benzamide | C(#N)CNC(=O)C1(CCCCC1)NC(C1=CC=C(C=C1)N1CCN(CC1)CCC)=O | C23H33N5O2
